US05025031
Sulfamic acid 4-iodophenyl ester
This compound was prepared according to the procedure of Example 56. A mixture of 22.0 g (0.1 mole) of 4-iodophenol (Aldrich) and 9.1 ml (14.8 g, 0.105 mole) of chlorosulfonyl isocyanate in 100 ml of toluene gave 23.8 g (80%) of the title compound as a white solid, mp 146°-147° C.

reactant | 4-iodophenol | 0.1 mole, 22.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | chlorosulfonyl isocyanate | 0.105 mole, 9.1 ml, 14.8 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 4-iodophenyl ester | 23.8 g, 80% | IC1=CC=C(C=C1)OS(N)(=O)=O | C6H6INO3S
